Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
unresponsiveness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ reportedly ambidextrous man with
history notable for vascular dementia, AFib s/p AVN ablation and
PPM placement c/b prior ischemic strokes previously on warfarin,
prior PEs, HTN, HLD, gout, glaucoma and recent admission
(___) for fall c/b ___ transferred from ___ after presenting with unresponsiveness.

Per review of records and discussion with Mr. ___ facility,
he was last seen alert and conversant this morning at 05:00;
subsequently, on nursing check around 07:00, he was noted to be
somnolent and not responsive to noxious stimuli, though without
further vital sign derangements. He was taken to ___, where, en route, he received naloxone without
effect. At ___, bilateral arm movement was observed, raising
concerns for intercurrent seizures (with scattered reports from
EMS and other providers regarding ?convulsions with initial
unresponsiveness, not corroborated in nursing documentation from
Mr. ___ and prompting administration of 2 mg IV
lorazepam, also without effect. Mr. ___ was accordingly
transferred to ___ for further evaluation.

Notably, Mr. ___ was recently admitted to ___ after a fall 
at
his ___, where he was found to have a right temporal tSAH. Mr.
___ anticoagulation was reversed and, per his son's
understanding, he was deemed to be at high risk of ICH but at
comparatively lower risk of recurrent ischemic infarcts (despite
CHADsVASc of 6 during the prior admission), prompting
discontinuation of warfarin. Per review of records, note is made
at Mr. ___ visit that there were no
restrictions on resuming anticoagulation, but that, "It may be
devastating next time he falls again."

Unable to obtain ROS due to somnolence.
 
Past Medical History:
Vascular dementia
AFib s/p AVN ablation and PPM placement c/b prior ischemic
strokes (right temporoparietal w/ L hemiparesis, unclear second)
previously on warfarin 
Prior PEs
HTN
HLD
Gout
Glaucoma 
Fall c/b tSAH 
 
Social History:
___
Family History:
No early MI, no sudden cardiac death.  Brother has pacemaker.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals: T: 97.5  HR: 70  BP: 144/85  RR: 16  SpO2: 100% 3L NC
General: somnolent, at times sneezing with bilateral arm
extension
HEENT: NCAT, neck supple
___: regular, paced
Pulmonary: Intermittent tachypnea and sneezing, otherwise 
without
increased WOB
Abdomen: Soft, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Somnolent, no eye opening to noxious stimuli,
does not regard or track, does not follow commands.

- Cranial Nerves: Pupils 2 to 1.5 mm OD, irregular and
nonreactive OS. Slight gaze preference, no EOM with OCRs. Brisk
corneal reflex OD, absent OS. R NLFF.

- Sensorimotor: Intermittent spontaneous flexion movements of
BLE, limited spontaneous movement of BUE (aside from extension
movements with sneezing, ?related to OSH observations). 
Withdraws
all extremities from noxious stimuli, marginally less brisk in
RUE.
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  1+    1+     1+      1+       0
 R  1+    1+     1+      1+       0  
 Plantar response extensor bilaterally. 

- Coordination: Unable to assess.

- Gait: Unable to assess.

DISCHARGE EXAM:
===============
Expired
 
Pertinent Results:
ADMISSION LABS
___ 12:35PM BLOOD WBC: 8.6 RBC: 4.17* Hgb: 13.1* Hct: 39.3*
MCV: 94 MCH: 31.4 MCHC: 33.3 RDW: 12.8 RDWSD: 44.___ 
___ 12:35PM BLOOD Neuts: 71.8* Lymphs: 14.7* Monos: 8.1 
Eos:
4.4 Baso: 0.7 Im ___: 0.3 AbsNeut: 6.16* AbsLymp: 1.26 AbsMono:
0.70 AbsEos: 0.38 AbsBaso: 0.06 
___ 12:35PM BLOOD ___: 13.3* PTT: 24.2* ___: 1.2* 
___ 12:44PM BLOOD Glucose: 88 Creat: 1.4* Na: 140 K: 4.2 
Cl:
110* calHCO3: 26 
___ 12:35PM BLOOD UreaN: 21* 
___ 12:35PM BLOOD ALT: 14 AST: 40 AlkPhos: 83 TotBili: 1.1 
___ 12:35PM BLOOD cTropnT: 0.01 
___ 12:35PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
___ 12:35PM URINE Color: Straw Appear: Clear Sp ___: 1.009 

___ 12:35PM URINE Blood: SM* Nitrite: NEG Protein: TR*
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 7.0 
Leuks:
NEG 

___ CTA
1. Occluded or critically stenotic proximal left M2 segment
resulting in acute left MCA territory infarction involving the
left insula and left frontal lobe, ASPECTS score ___. Distal
reconstitution, but reduced vascularity by approximately ___
compared to the contralateral side. No evidence of 
significant edema or hemorrhagic transformation. 
2. Occluded right internal carotid artery origin, severely
stenotic distal right A1 segment, occluded right A2 segment
origin, short-segment reconstituted right pericallosal artery,
and distal partially occluded right pericallosal artery 
resulting
in acute right ACA territory infarction involving the right
caudate head, inferior right frontal lobe, and probably 
right anterior paracentral gyrus and right paracentral lobule. 
No
evidence of significant edema or hemorrhagic transformation. 
3. Chronic right parietal and left occipital infarcts. 
4. Aspiration with substantial secretions in the trachea and
mainstem bronchi. 

___volution of acute infarcts within the left frontal lobe and 
right basal 
ganglia without new mass effect or hemorrhagic transformation. 

 
Brief Hospital Course:
Mr. ___ is a ___ reportedly ambidextrous man with a h/o Afib 
s/p
PPM placement not currently on anticoagulation therapy, vascular
dementia, PEs, HTN, HLD, and prior CVAs and recent admission
(___) for fall c/b ___ transferred from ___ after presenting with altered mental
status and unresponsiveness.

 
CTA showed acute left MCA territory infarct and acute R ACA
territory infarct in addition to R ICA occlusion and R A2 
segment
occlusion. Chronic R parietal and L occipital infarcts. Given 
the
patients history of Afib, now not currently on anticoagulation
given the risk of bleeding after his tSAH on ___ the
etiology of his acute strokes are most likely cardioembolic in
nature. Given the severe depression of mental status and
unresponsiveness and risk of aspiration the family was consulted
for goals of care discussions where the decision was made to 
keep
the patient CMO on ___. 

Patient died in hospital on ___.

 
Medications on Admission:
CMO
 
Discharge Medications:
CMO
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
left MCA stroke
right ACA stroke
 atrial fibrillation
 vascular dementia
 previous stroke of R parietal lobe
 hypertension
 hyperlipidemia
 pacemaker for complete heart block

 
Discharge Condition:
Expired
 
Discharge Instructions:
Dear Mr ___,  

 You were hospitalized due to symptoms of unresponsiveness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 atrial fibrillation
 vascular dementia
 previous strokes
 hypertension
 hyperlipidemia

After a long discussion with your family and HCP, they decided 
to pursue comfort measures only.

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___